US04740229
3-[[(4-Cyano-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-2-thiophenecarboxylic acid, methyl ester
2-Amino-4-cyano-6-methoxypyrimidine, 0.1 g, was mixed with 2-carbomethoxythiophene-3-sulfonyl isocyanate, 0.165 g, in 10 ml of methylene chloride. The reaction mixture was stirred at room temperature overnight. The reaction mixture was stripped to yield 0.19 g of the title compound as a solid, m.p. 89°-92° C. (dec). NMR (CDCl3): δ6.89 (s, 3H), 4.20 (s, 3H), 6.83 (s, 1H), 7.59 (d, 1H), 7.80 (d, 1H).

reactant | 2-Amino-4-cyano-6-methoxypyrimidine | NC1=NC(=CC(=N1)C#N)OC | C6H6N4O
reactant | 2-carbomethoxythiophene-3-sulfonyl isocyanate | C(=O)(OC)C=1SC=CC1S(=O)(=O)N=C=O | C7H5NO5S2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-[[(4-Cyano-6-methoxypyrimidin-2-yl)aminocarbonyl]aminosulfonyl]-2-thiophenecarboxylic acid, methyl ester | 0.19 g | C(#N)C1=NC(=NC(=C1)OC)NC(=O)NS(=O)(=O)C1=C(SC=C1)C(=O)OC | C13H11N5O6S2
